US05464853
N-(4-biphenylsuifonyl )-N-(4-bromo- 3-methyl- 5-isoxazolyl)-4-biphenylsulfonamide (0.150 g, 0.233 mmol) was dissolved in tetrahydrofuran (THF). Sodium hydroxide (0.120 g, 3.0 mmol) was added and the solution was warmed to 45° C. to dissolve the sodium hydroxide. Stirring was continued for 20 min. Tetrahydrofuran was removed under reduced pressure. The residue was dissolved in water, cooled to 0° C. and acidified to pH 3-4 with concentrated HCl. The solid precipitate was filtered off and dried in vacuo to give N-(4-bromo-3-methyl-5-isoxazolyl)-4-biphenylsulfonamide (94% yield), which was further purified by recrystallization from chloroform/hexanes, m.p. 133°-135° C.

reactant | N-(4-biphenylsuifonyl )-N-(4-bromo- 3-methyl- 5-isoxazolyl)-4-biphenylsulfonamide | 0.233 mmol, 0.150 g | C1(=CC=C(C=C1)S(=O)(=O)N(S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=C(C(=NO1)C)Br)C1=CC=CC=C1 | C28H21BrN2O5S2
reactant | Sodium hydroxide | 3.0 mmol, 0.120 g | [OH-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-4-biphenylsulfonamide | 94% yield | BrC=1C(=NOC1NS(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1)C | C16H13BrN2O3S
